US07399780B2
6-(5-Cyano-2-hydroxy-1H-indol-3-yl)-N-methyl-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide hydrochloride
To an ice-cooled solution of 5-cyanooxindole (200 mg, 1.26 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (60 mg, 1.5 mmol). The reaction mixture was stirred for 25 min whereafter 6-chloro-N-methyl-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide (303 mg, 1 mmol) was added. The reaction mixture was heated at 130° C. for 1 h and then allowed to cool to room temperature. An aqueous saturated solution of NaHCO3 (50 mL) was added and the water phase was extracted with ethyl acetate. The organic phase was dried (Na2SO4) and purified on a silica gel column using chloroform/methanol/conc NH3(aq), (500:35:3.5 to 500:50:5), as the eluent. The solvents were evaporated in vacuo and the residue was stirred over night in ethyl acetate, filtered and dried to give 160 mg (38% yield) of the title compound as the base. The base, dissolved in chloroform/methanol, was treated with HCl in diethyl ether to give the title compound: MS (ES) m/z 426 (M++1).

reactant | 5-cyanooxindole | 1.26 mmol, 200 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 6-chloro-N-methyl-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide | 1 mmol, 303 mg | ClC1=CC=C(C=N1)S(=O)(=O)N(CCN1CCCC1)C | C12H18ClN3O2S
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-(5-Cyano-2-hydroxy-1H-indol-3-yl)-N-methyl-N-(2-pyrrolidin-1-ylethyl)pyridine-3-sulfonamide hydrochloride | 160 mg, 38% yield | Cl.C(#N)C=1C=C2C(=C(NC2=CC1)O)C1=CC=C(C=N1)S(=O)(=O)N(CCN1CCCC1)C | InChI=1S/C21H23N5O3S.ClH/c1-25(10-11-26-8-2-3-9-26)30(28,29)16-5-7-19(23-14-16)20-17-12-15(13-22)4-6-18(17)24-21(20)27;/h4-7,12,14,24,27H,2-3,8-11H2,1H3;1H
